US08530504B2
(9a) tert-Butyl{3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-ethyl-6-methoxymethylpyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate
To a dioxane (5 mL) solution of tert-butyl{2-bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate (118 mg, 0.224 mmol), 1M diethyl zinc (0.448 mL, 0.448 mmol) and bis(tri-tert-butylphosphine)palladium(0) (5.70 mg, 0.011 mmol) were added, and the mixture was heated at 60° C. for one hour. After the reaction was completed, the solvent was directly distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a mixed solvent of n-heptane and ethyl acetate: n-heptane/ethyl acetate=1/1) to obtain the title compound (84 mg, 0.176 mmol).

reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl{2-bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate | 0.224 mmol, 118 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2C2=C(C=C(C=C2OC)COC)OC)Br)OC)=O | C21H26BrN3O6S
reactant | diethyl zinc | 0.448 mmol, 1M, 0.448 mL | C(C)[Zn]CC
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.011 mmol, 5.70 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | tert-Butyl{3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-ethyl-6-methoxymethylpyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate | 0.176 mmol, 84 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2C2=C(C=C(C=C2OC)COC)OC)CC)COC)=O | C24H33N3O6S
